US04145347
From 8.5 g. of ethyl 2-oxo-1-pyrrolidineacetamide and 11.6 g. of N-isopropyl-N-methylethylenediamine, following the procedure of Example 1, there is obtained N-[2-[methyl(1-methylethyl)amino]ethyl]-2-oxo-1-pyrrolidineacetamide; b.p. 152° C./0.07 mm.

reactant | ethyl 2-oxo-1-pyrrolidineacetamide | C(C)C1C(N(CC1)CC(=O)N)=O | C8H14N2O2
reactant | N-isopropyl-N-methylethylenediamine | C(C)(C)N(CCN)C | C6H16N2
product | N-[2-[methyl(1-methylethyl)amino]ethyl]-2-oxo-1-pyrrolidineacetamide | CN(CCNC(CN1C(CCC1)=O)=O)C(C)C | C12H23N3O2
